US07820707B2
a) 2-(3-Chloropropanamido)-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
2-Amino-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (2.82 g, 13.41 mmol) was completely dissolved in THF (90 mL). Potassium carbonate (2.22 g, 16.09 mmol) was then added and the reaction stirred for 5 min. 3-chloropropanoyl chloride (2.04 g, 1.536 mL, 16.09 mmol) was added and the reaction mixture stirred at RT for 30 min. THF was removed in vacuo. Water was added and the reaction mixture extracted into EtOAc (×3). The combined EtOAc layers were washed with brine, dried over MgSO4, filtered and the solvent removed in vacuo. Purification by flash column chromatography-silica gel and elution with 0-60% EtOAc:heptane gave the desired product (1.76 g, 5.87 mmol, 44%).

reactant | 2-Amino-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 13.41 mmol, 2.82 g | NC1=C(C2=C(S1)CCCC2)C(=O)NC | C10H14N2OS
reactant | Potassium carbonate | 16.09 mmol, 2.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloropropanoyl chloride | 16.09 mmol, 1.536 mL, 2.04 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | heptane | CCCCCCC | C7H16
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 2-(3-Chloropropanamido)-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 5.87 mmol, 1.76 g, 44% | ClCCC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)NC | C13H17ClN2O2S
